US08378108B2
6-Chloro-N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-3,4′-bipyridine-2′-carboxamide (60.0 mg, 0.144 mmol) was dissolved in cyclopropylamine (250 μL), and the mixture was heated to 110° C. for 2 days. The amine was removed under reduced pressure, and the residue was purified by reverse phase HPLC. The product (N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-6-(cyclopropylamino)-3,4′-bipyridine-2′-carboxamide, 31.2 mg, 50% yield) was isolated as a white solid.

reactant | 6-Chloro-N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-3,4′-bipyridine-2′-carboxamide | 0.144 mmol, 60.0 mg | ClC1=CC=C(C=N1)C1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C1=NN=CN1C1CC1 | C22H17ClN6O
solvent | cyclopropylamine | 250 μL | C1(CC1)N | C3H7N
product | N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-6-(cyclopropylamino)-3,4′-bipyridine-2′-carboxamide | 50% yield | C1(CC1)N1C(=NN=C1)C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)C=1C=NC(=CC1)NC1CC1 | C25H23N7O
